US07629494B2
A 500 ml three-necked round-bottomed flask was equipped with a magnetic stirrer bar, a thermometer and a drying tube. A solution of 2-cyclopropyl-6-methylphenyl acetate (18.3 g, 96.2 mmol) in methanol (100 ml) was added thereto. Potassium carbonate (26.5 g, 192 mmol) was added thereto at once and the mixture was stirred at room temperature for 75 minutes. After water (300 ml) was added to the reaction mixture, the resulting mixture was concentrated by an evaporator to remove most of methanol. The obtained mixture was cooled to 0° C. and 4M hydrochloric acid (100 ml) was added thereto such that the temperature of the mixture did not exceed 25° C. This was extracted with a 10% ethyl acetate-90% hexane (V/V) solvent mixture (3×200 ml). The organic layer was combined and successively washed with water (2×200 ml) and a saturated aqueous NaCl solution (50 ml), followed by drying with anhydrous sodium sulfate (90 g). After the solid was removed by filtration and the filtrate was concentrated to obtain 13.8 g of a crude product of 2-cyclopropyl-6-methylphenol as a brown oil. The crude product was distilled (7.6-7.8 mmHg, 94-98° C.) to obtain 9.64 g of 2-cyclopropyl-6-methylphenol as a light purple oil.

reactant | 2-cyclopropyl-6-methylphenyl acetate | 96.2 mmol, 18.3 g | C(C)(=O)OC1=C(C=CC=C1C)C1CC1 | C12H14O2
reactant | Potassium carbonate | 192 mmol, 26.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 300 ml | O | H2O
solvent | methanol | 100 ml | CO | CH4O
product | 2-cyclopropyl-6-methylphenol | 9.64 g | C1(CC1)C1=C(C(=CC=C1)C)O | C10H12O
